US05409936
A solution of ethyl 2-ethyl-3-[2'-(t-butoxycarbonyl)biphenyl-4-yl]methyl-4,5,6,7-tetrahydroimidazo[4,5-c]pyridine-4-carboxylate (1.72 g), monoethyl malonate (0.94 g), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (1.02 g), triethylamine (1.78 g) in dichloromethane (20 ml) is stirred overnight at room temperature. The reaction mixture is washed with water and dried over sodium sulfate and then evaporated. The residue is purified by silica gel column chromatography (solvent; chloroform/methanol) to give ethyl 2-ethyl-3-[2'-(t-butoxycarbonyl)biphenyl-4-yl]methyl-5-ethoxycarbonylacetyl-4,5,6,7-tetrahydroimidazo[4,5-c]pyridine-4-carboxylate (1.57 g) as an oil.

reactant | ethyl 2-ethyl-3-[2'-(t-butoxycarbonyl)biphenyl-4-yl]methyl-4,5,6,7-tetrahydroimidazo[4,5-c]pyridine-4-carboxylate | 1.72 g | C(C)C1=NC2=C(C(NCC2)C(=O)OCC)N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C(=O)OC(C)(C)C | C29H35N3O4
reactant | monoethyl malonate | 0.94 g | C(CC(=O)[O-])(=O)OCC
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 1.02 g | Cl.CN(CCCN=C=NCC)C
reactant | triethylamine | 1.78 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | ethyl 2-ethyl-3-[2'-(t-butoxycarbonyl)biphenyl-4-yl]methyl-5-ethoxycarbonylacetyl-4,5,6,7-tetrahydroimidazo[4,5-c]pyridine-4-carboxylate | 1.57 g | C(C)C1=NC2=C(C(N(CC2)C(CC(=O)OCC)=O)C(=O)OCC)N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C(=O)OC(C)(C)C | C34H41N3O7
